US09260425B2
3-(6-(1,4-diazepan-1-yl)pyridin-2-yl)-5-(pyridin-3-yl)-1H-pyrazolo[3,4-c]pyridine 187
Following the procedures of Example 143 and starting with 3-(6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine and homopiperazine, 187 was obtained and lyophilized from water to afford 42 mg (78%). ESI MS m/z 372.1 (M+1). 1H NMR (400 MHz, DMSO)•9.58 (s, 1H), 9.44 (s, 1H), 9.36 (s, 2H), 9.31 (s, 1H), 9.11 (d, J=8.3 Hz, 1H), 8.99 (s, 1H), 8.94 (d, J=5.4 Hz, 1H), 8.23-8.15 (m, 1H), 7.73 (t, J=8.0 Hz, 1H), 7.52 (d, J=7.4 Hz, 1H), 6.83 (d, J=8.5 Hz, 1H), 4.12 (s, 2H), 3.89 (t, J=6.0 Hz, 2H), 3.43 (d, J=21.5 Hz, 2H), 3.27-3.17 (m, 2H), 2.24 (s, 2H)

reactant | 3-(6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2 | C21H18FN5O
reactant | homopiperazine | N1CCNCCC1 | C5H12N2
reactant | water | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-(6-(1,4-diazepan-1-yl)pyridin-2-yl)-5-(pyridin-3-yl)-1H-pyrazolo[3,4-c]pyridine | N1(CCNCCC1)C1=CC=CC(=N1)C1=NNC2=CN=C(C=C21)C=2C=NC=CC2 | C21H21N7
